US07135480B2
1-Benzoyl-4-bromo-3-cyano-pyrrolo[1,2-a]quinoline
3-Bromo-1-phenacyl-quinolinium bromide: The title compound was prepared from 2-bromo-1-phenyl-ethanone (485 mg, 2.44 mmol), 7-methyl-quinoline (430 mg, 2.07 mmol) and acetonitrile (5 mL), similar to Example 1a, and yielded 303 mg (36%) as a light tan solid: 1H NMR (CD3OD) 9.73 (d, J=2.1 Hz, 1H), 9.65 (d, J=1.8 Hz, 1H), 8.44 (dd, J=1.2, 8.1 Hz, 1H), 8.31–8.18 (m, 4H), 8.08 (m, 1H), 7.81 (m, 1H), 6.67 (m, 2H), 6.91 (s, 2H).

reactant | 3-Bromo-1-phenacyl-quinolinium bromide | [Br-].BrC=1C=[N+](C2=CC=CC=C2C1)CC(=O)C1=CC=CC=C1
reactant | 2-bromo-1-phenyl-ethanone | 2.44 mmol, 485 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | 7-methyl-quinoline | 2.07 mmol, 430 mg | CC1=CC=C2C=CC=NC2=C1 | C10H9N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-Benzoyl-4-bromo-3-cyano-pyrrolo[1,2-a]quinoline | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1C1=CC=CC=C1C=C2Br)C#N | C20H11BrN2O
